US05356893
(4-Acetylphenyl)boronic acid
n-Butyllithium (81.6 ml) was added dropwise to a stirred solution of 2-(4-bromophenyl)-2-methyl-1,3-dioxolane (30.0 g) in dry THF (400 ml), under nitrogen, at -75° C. After a period of 1.5 h, triisopropylborate (31.2 ml) was added dropwise at -75° C. The reaction was allowed to warm to room temperature over a 3 h period. Hydrochloric acid (2N; 200 ml) was added and the reaction was allowed to stand at room temperature overnight. The solvent was evaporated and the residue was purified by FCC eluting with ether to give a white solid which was purified by crystallisation from water (200 ml) to give the title compound (14.52 g) as a white crystalline solid m.p. 268°-270° C.

reactant | n-Butyllithium | 81.6 ml | C(CCC)[Li]
reactant | 2-(4-bromophenyl)-2-methyl-1,3-dioxolane | 30.0 g | BrC1=CC=C(C=C1)C1(OCCO1)C | C10H11BrO2
reactant | triisopropylborate | 31.2 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | (4-Acetylphenyl)boronic acid | 14.52 g | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
